* Spice netlister for gnetlist
V1 vid 0 AC 10m 0
R3 vf 0 100
R2 vs vf 800
E1 vg 0 vid vf 109180
R5 N001 vg 10000000
R1 vs 0 100
R6 0 vs 50k
R4 vid vf 10000000
G1 0 vs N001 vs 1m
.ac lin 100 50k 100k
.control
run

wrdata plotdata.dat V(vf)/  ((V(vg) - V(vs))*0.001-(V(vs)/50k) ) 
wrdata plotdata2.dat ((V(vg) - V(vs))*0.001-(V(vs)/50k) )/ (V(vid)-V(vf)) 
wrdata plotdata3.dat ((V(vg) - V(vs))*0.001-(V(vs)/50k) )/ (V(vid)) 

.endc 
.end
